US06316637B1
4-Bromo-7-chloro-5-(2-imidazolin-2-ylamino) benzimidazole (#60).
To a solution of 7-chloro-5-(2-imidazolin-2-ylamino)benzimidazole (0.61 g, 2.6 mmol) in 10 ml of AcOH was added 0.3 ml of Br2. Resulting reaction mixture was stirred for 12 h at 25° C. and concentrated in vacuo, yielding an oil, which was subjected to column chromatography (NH3 sat'd 30% MeOH/EtOAc) to yield 0.23 g (0.85 mmol, 33%) of the desired product. The product obtained was converted to the fumarate salt and recrystallized from MeOH to afford 0.12 g (12%) of the product as a light yellow solid: mp 244-246° C.; Anal. Calc. for C10H9N5BrCl. 1.0C4H4O4.0.5H2O requires C, 37.77; H, 3.17; N,18.35. Found: C, 37.75; H, 3.08; N, 18.21.

reactant | 7-chloro-5-(2-imidazolin-2-ylamino)benzimidazole | 2.6 mmol, 0.61 g | ClC1=CC(=CC2=C1N=CN2)NC=2NCCN2 | C10H10ClN5
reactant | Br2 | 0.3 ml | BrBr | Br2
reactant | NH3 | N | H3N
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | 4-Bromo-7-chloro-5-(2-imidazolin-2-ylamino) benzimidazole | 0.85 mmol, 0.23 g, 33% | BrC1=C(C=C(C=2N=CNC21)Cl)NC=2NCCN2 | C10H9BrClN5
